US05866567
(3aR*,10aS*)-9-[4-[3-((R)-1-Phenylethyl)ureido]-benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
Using (3aR*,10aS*)-9-(4-aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one and (R)-1-phenylethyl isocyanate, the title compound was synthesized in otherwise the same manner as Example 26. Yield 54%, m.p. 158°-163° C. (ethyl acetate-diethyl ether).

reactant | (3aR*,10aS*)-9-(4-aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C29H26N4O4
reactant | (R)-1-phenylethyl isocyanate | C1(=CC=CC=C1)[C@@H](C)N=C=O | C9H9NO
solvent | ethyl acetate diethyl ether | C(C)(=O)OCC.C(C)OCC
product | (3aR*,10aS*)-9-[4-[3-((R)-1-Phenylethyl)ureido]-benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | Yield 54% | C1(=CC=CC=C1)[C@@H](C)NC(NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1)=O | C38H35N5O5
